US06727238B2
3-Fluoro-4-[5-[3-methyl-4-(4-thiazolyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide
The title compound was prepared according to the procedure of Example 60 using 2-fluoro-4-sulfamoylphenylhydrazine hydrochloride instead of 3-fluoro-4-(methylsulfonyl)phenylhydrazine hydrochloride and 4,4,4-trifluoro-1-[3-methyl-4-(4-thiazolyl)phenyl]butane-1,3-dione instead of 4,4,4-trifluoro-1-[4-(2-furyl)phenyl]butane-1,3-dione in step 2.

reactant | 2-fluoro-4-sulfamoylphenylhydrazine hydrochloride | Cl.FC1=C(C=CC(=C1)S(N)(=O)=O)NN
reactant | 4,4,4-trifluoro-1-[3-methyl-4-(4-thiazolyl)phenyl]butane-1,3-dione | FC(C(CC(=O)C1=CC(=C(C=C1)C=1N=CSC1)C)=O)(F)F | C14H10F3NO2S
product | 3-Fluoro-4-[5-[3-methyl-4-(4-thiazolyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | FC=1C=C(C=CC1N1N=C(C=C1C1=CC(=C(C=C1)C=1N=CSC1)C)C(F)(F)F)S(=O)(=O)N | C20H14F4N4O2S2
